US07465815B2
7-(4-Isopropylbenzyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine
Using N-benzyl-7-(4-isopropylbenzyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 271, the title compound was synthesized in the same manner as in Reference Example 30. Yield 92%. Melting point: 114-115° C. (ethyl acetate-hexane).

reactant | N-benzyl-7-(4-isopropylbenzyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C1=CC=CC=C1)NC=1C(=C(C2=C(CCO2)C1C)CC1=CC=C(C=C1)C(C)C)C | C27H31NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 7-(4-Isopropylbenzyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine | Yield 92% | C(C)(C)C1=CC=C(CC2=C(C(=C(C=3CCOC32)C)N)C)C=C1 | C20H25NO
